US06964966B2
A mixture of 20% Pd(OH)2 on carbon (0.2 g) and 4-amino-1-benzyl-3-ethyl-3-methylpiperidine (0.6 g, 2.58 mmol) in methanol (210 ml) was stirred in hydrogen atmosphere (1 atm.) at 30° C. for 6 hr. The catalyst was filtered off, washed with methanol and filtrate was concentrated to dryness to afford 4-amino-3-ethyl-3-methylpiperidine.

reactant | 4-amino-1-benzyl-3-ethyl-3-methylpiperidine | 2.58 mmol, 0.6 g | NC1C(CN(CC1)CC1=CC=CC=C1)(C)CC | C15H24N2
solvent | methanol | 210 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 0.2 g | [OH-].[OH-].[Pd+2]
product | 4-amino-3-ethyl-3-methylpiperidine | NC1C(CNCC1)(C)CC | C8H18N2
